US07902187B2
2-amino-6-chloro-9-(trans-4-hydroxycyclohexyl)-7H-purin-8(9H)-one.
Trans-4-(2-Amino-6-chloro-8-oxo-7,8-dihydropurin-9-yl)cyclohexyl methyl carbonate (1.43 g) was dissolved in 80 mL of an aqueous solution 0.5 N KOH and the reaction mixture heated at reflux for 30 min (LC-MS analysis indicated reaction to be complete). The reaction mixture was then cooled in an ice bath, and its pH was brought to 7 by drop wise addition of a concentrated aqueous solution of HCl. A light pink solid precipitated. It was filtered under vacuum, thoroughly dried in vacuum oven at 60° C., to give the desired product in 86% yield. 1H NMR (300 MHz, CDCl3+CD3OD) δ, ppm: 8.48 (br s, 1H), 7.73 (s, 2H), 4.26-4.18 (m, 1H), 3.70-3.61 (m, 1H), 2.53-2.40 (m, 2H), 2.10-2.06 (m, 2H), 1.81-1.76 (m, 2H), 1.48-1.37 (m, 2H); MS (EI) m/z 284.1 (MH)+.

reactant | Trans-4-(2-Amino-6-chloro-8-oxo-7,8-dihydropurin-9-yl)cyclohexyl methyl carbonate | 1.43 g | C(O[C@@H]1CC[C@H](CC1)N1C2=NC(=NC(=C2NC1=O)Cl)N)(OC)=O | C13H16ClN5O4
reactant | HCl | Cl | ClH
solvent | KOH | [OH-].[K+]
product | 2-amino-6-chloro-9-(trans-4-hydroxycyclohexyl)-7H-purin-8(9H)-one | 86% yield | NC1=NC(=C2NC(N(C2=N1)[C@@H]1CC[C@H](CC1)O)=O)Cl | C11H14ClN5O2
